US06133279
In 200 ml of a mixed solvent of diethyl ether-water (3:1) was dissolved 10.0 g of 4-acetoxy-3,5-di-t-butyl-2-(2-methyl-2-propenyl)phenol synthesized according to the procedure described in JP 7-330759/95 and combined with 5.3 g of sodium bicarbonate and 12.0 g of iodine, and the mixture was stirred at room temperature for 20 minutes. Then, the reaction mixture was combined with a saturated aqueous sodium thiosulfate solution and extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated to give 13.2 g of 5-acetoxy-4,6-di-t-butyl-2-iodomethyl-2-methyl-2,3-dihydrobenzofuran (rotamer mixture) as a colorless oil (yield 95%).

reactant | 4-acetoxy-3,5-di-t-butyl-2-(2-methyl-2-propenyl)phenol | 10.0 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)CC(=C)C)C(C)(C)C | C20H30O3
reactant | sodium bicarbonate | 5.3 g | C([O-])(O)=O.[Na+]
reactant | iodine | 12.0 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether water | C(C)OCC.O
product | 5-acetoxy-4,6-di-t-butyl-2-iodomethyl-2-methyl-2,3-dihydrobenzofuran | 13.2 g, yield 95% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CI)C1C(C)(C)C)C(C)(C)C | C20H29IO3
